US07538239B2
2-(2-(p-toluenesulfonyl)amino-5-methylphenyl)-3-methyl-2-cyclopenten-1-one
0.600 g (2.79 mmol) of 2-(2-amino-5-methylphenyl)-3-methyl-2-cyclopenten-1-one, 0.243 g (3.07 mmol) f pyridine, 0.858 g (3.07 mmol) of p-toluenesulfonyl chloride, and 3 mL of M.C were loaded to a 20 mL vial, and then reacted for 12 hours. The work-up was the same as in Example 7 (0.800 g, 78%).

reactant | 2-(2-amino-5-methylphenyl)-3-methyl-2-cyclopenten-1-one | 2.79 mmol, 0.600 g | NC1=C(C=C(C=C1)C)C=1C(CCC1C)=O | C13H15NO
reactant | p-toluenesulfonyl chloride | 3.07 mmol, 0.858 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(2-(p-toluenesulfonyl)amino-5-methylphenyl)-3-methyl-2-cyclopenten-1-one | C1(=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)C)C=1C(CCC1C)=O)C | C20H21NO3S
